US09029549B2
Cyclohexyl 2-(1-{[3,5-bis(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylate (I-772)
[3,5-Bis(trifluoromethyl)-1H-pyrazol-1-yl]acetic acid (288 mg) and Hünig base (323 mg) are dissolved in dichloromethane (10 ml) and stirred at room temperature for 30 min. 4-{4-[(Cyclohexyloxy)carbonyl]-1,3-thiazol-2-yl}piperidinium chloride (X-1, 330 mg) is added, and the mixture is stirred for a further 5 min before bromo-tris-pyrrolidinophosphonium hexafluorophosphate (559 mg) is added. The reaction mixture is stirred at room temperature overnight. After removal of the solvent under reduced pressure, the residue is purified chromatographically. This gives cyclohexyl 2-(1-{[3,5-bis(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylate (348 mg, 65%).

reactant | [3,5-Bis(trifluoromethyl)-1H-pyrazol-1-yl]acetic acid | 288 mg | FC(C1=NN(C(=C1)C(F)(F)F)CC(=O)O)(F)F | C7H4F6N2O2
reactant | Hünig base | 323 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-{4-[(Cyclohexyloxy)carbonyl]-1,3-thiazol-2-yl}piperidinium chloride | 330 mg | [Cl-].C1(CCCCC1)OC(=O)C=1N=C(SC1)C1CC[NH2+]CC1
reactant | bromo-tris-pyrrolidinophosphonium hexafluorophosphate | 559 mg | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Cyclohexyl 2-(1-{[3,5-bis(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylate | FC(C1=NN(C(=C1)C(F)(F)F)CC(=O)N1CCC(CC1)C=1SC=C(N1)C(=O)OC1CCCCC1)(F)F | C22H24F6N4O3S
